US04141734
40 ml of thioacetic acid are added to 43 g of crotonic acid in 100 ml of dioxane. After adding 20 mg of benzoyl peroxide, the mixture is kept at the boiling point under reflux for 6 hours. The solvent and the excess thioacetic acid are removed by distillation and the product is purified by vacuum distillation. 75 g (92% of theory) of 3-acetylmercapto-butyric acid are obtained; boiling point 94° to 95° C/0.45 mm Hg. nD20 1.4908.

reactant | thioacetic acid | 40 ml | C(C)(=S)O | C2H4OS
reactant | crotonic acid | 43 g | C(\C=C\C)(=O)O | C4H6O2
reactant | benzoyl peroxide | 20 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | dioxane | 100 ml | O1CCOCC1 | C4H8O2
product | 3-acetylmercapto-butyric acid | 75 g, 92% | C(C)(=O)SC(CC(=O)O)C | C6H10O3S
